US04057416
A slurry of 18.7 g of 3-amino-2-cyano-3-(methylthio)propenethioamide in 100 ml of ethanol was heated under reflux, as 14 ml (4.1 g) of 30% hydrogen peroxide were added dropwise. The exothermic reaction kept the system under reflux. The solution was heated under reflux for 30 minutes. The reaction mixture was allowed to cool to ambient temperature while it was stirred overnight. The white solid was collected by filtration to give 16.4 g of 5-amino-4-cyano-3-(methylthio)isothiazole; m.p. 188°-189°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(methylthio)propenethioamide | 18.7 g | NC(=C(C(N)=S)C#N)SC | C5H7N3S2
reactant | hydrogen peroxide | 14 ml, 4.1 g | OO | H2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-(methylthio)isothiazole | 16.4 g | NC1=C(C(=NS1)SC)C#N | C5H5N3S2
